US08182718B2
6-Methyl-N-(6-methylpyridin-2-yl)-N-propylpyridin-2-amine
To a flask were added 1.0 g 6-methyl-N-(6-methylpyridin-2-yl)pyridin-2-amine, 0.84 g of pulverized potassium hydroxide and 15 ml of N,N-dimethylformamide. After stirring for 1 hour under nitrogen, the mixture was cooled to 5 C and 0.85 g of 1-iodopropane were added. The mixture was allowed to warm to 22 C and stirred for 16 hours. After quenching with 15 ml water, the product was extracted twice with diethyl ether and washed with water. Following removal of solvent, the product was purified by silica gel chromatography using 10% ethyl acetate in hexane to give 1.0 g of a colorless oil.

reactant | 6-methyl-N-(6-methylpyridin-2-yl)pyridin-2-amine | 1.0 g | CC1=CC=CC(=N1)NC1=NC(=CC=C1)C | C12H13N3
reactant | potassium hydroxide | 0.84 g | [OH-].[K+]
reactant | 1-iodopropane | 0.85 g | ICCC | C3H7I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-N-(6-methylpyridin-2-yl)-N-propylpyridin-2-amine | 1.0 g | CC1=CC=CC(=N1)N(CCC)C1=NC(=CC=C1)C | C15H19N3
